US09376709B2
A 35 mL glass pressure tube (Ace Glass Cat#8648-07) containing a stir bar was charged with 6.158 g (0.075 moles) of 1-methylimdazole followed by 12.380 g (0.075 moles) of 1-bromohexane. The tube was sealed with a threaded Teflon plug and an O-ring and the tubes were placed in an oil bath on a VWR stirring hot plate. The temperature was raised to 90° C. and maintained at this temperature for 16 hours during which time the solution became viscous and the stir bar had stopped. The tube was removed from the bath and mixed vigorously on a vortexing mixer to completely mix the two layers and the was tube replaced into the oil bath at 90° C. The tube was heated for another hour and then mixed vigorously a second time followed by another hour of heating at 90° C. The cycle was repeated once more until the viscous liquid was homogeneous. The liquid was extracted with equal volumes of ethyl acetate three times followed by rotary evaporation to remove the residual ethyl acetate to give 18.147 g of the 1-hexyl-3-methylimidazolium bromide as a viscous lightly yellow colored oil. Compound is also available from loLiTec (Heilbronn, Germany).

reactant | 1-methylimdazole | 0.075 moles, 6.158 g | CN1C=NC=C1 | C4H6N2
reactant | 1-bromohexane | 0.075 moles, 12.380 g | BrCCCCCC | C6H13Br
product | 1-hexyl-3-methylimidazolium bromide | 18.147 g | [Br-].C(CCCCC)[N+]1=CN(C=C1)C | InChI=1S/C10H19N2.BrH/c1-3-4-5-6-7-12-9-8-11(2)10-12;/h8-10H,3-7H2,1-2H3;1H/q+1;/p-1
